US03975537
2-Phenylbenzofuran (7.81 g., 0.040 mol.) was acylated with 7.0 g. (0.041 mol.) of anisoyl chloride according to the procedure described in Example 10 to give 2-phenyl-3-(4'-methoxybenzoyl)benzofuran.

reactant | 2-Phenylbenzofuran | 0.040 mol, 7.81 g | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2 | C14H10O
reactant | anisoyl chloride | 0.041 mol | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | 2-phenyl-3-(4'-methoxybenzoyl)benzofuran | C1(=CC=CC=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)OC)=O)C=CC=C2 | C22H16O3
